US07074800B1
A suspension of 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (31.8 g, 71.3 mmol) in methanol saturated with ammonia was stirred at ambient temperature overnight. The volatiles were removed under vacuum. The solid was triturated with ether containing about 10% of methylene chloride, filtered, washed with ether containing about 10% methylene chloride and dried under vacuum to give 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (22.63 g, 95%).

reactant | 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 71.3 mmol, 31.8 g | CN1CCN(CC1)CCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C23H34N4O5
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 7-(3-(4-methylpiperazin-1-yl)propoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 22.63 g, 95% | CN1CCN(CC1)CCCOC1=C(C=C2C(NC=NC2=C1)=O)OC | C17H24N4O3
